*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-22 01:10:09
*********************************************************

.SUBCKT sense_fill_clip
Cext_1 CTX_L126_0 CTX_L134_0 1.49152f
Cext_2 CTX_L126_0 N 579.759a
Cext_3 CTX_L126_0 P 413.959a
Cext_4 CTX_L126_0 VSUBS 3.21882f
Cext_5 CTX_L134_0 P 30.444a
Cext_6 CTX_L134_0 VSUBS 996.75a
Cext_7 N P 3.48775f
Cext_8 N VSUBS 659.457a
Cext_9 P VSUBS 659.457a
.ENDS sense_fill_clip
